US07067537B2
Production of ethyl 2-fluoro-5-{2-[4-(trifluoromethyl)pyridin-3-yl]-1,3-thiazol-4-yl}benzoate
3-[4-(3-Bromo-4-fluorophenyl)-1,3-thiazol-2-yl]-4-(trifluoromethyl)pyridine (1.48 g), 1,1′-bis(diphenylphosphino)ferrocene (680 mg), palladium acetate (270 mg) and triethylamine (0.77 ml) were suspended in a mixture of ethanol (15 ml)/THF (15 ml), and the mixture was vigorously stirred at 70° C. for 3 hrs at 5 atm under a carbon monoxide atmosphere. The reaction mixture was added to water and extracted with ethyl acetate. The organic layer was dried and concentrated. The residue was subjected to silica gel column chromatography (eluent, hexane:ethyl acetate=19:1–1:1) for purification and recrystallized from ethyl acetate-diisopropyl ether to give the title compound (1.17 g) as colorless powder crystals.

reactant | 3-[4-(3-Bromo-4-fluorophenyl)-1,3-thiazol-2-yl]-4-(trifluoromethyl)pyridine | 1.48 g | BrC=1C=C(C=CC1F)C=1N=C(SC1)C=1C=NC=CC1C(F)(F)F | C15H7BrF4N2S
reactant | triethylamine | 0.77 ml | C(C)N(CC)CC | C6H15N
reactant | THF | 15 ml | C1CCOC1 | C4H8O
reactant | water | O | H2O
solvent | ethanol | 15 ml | C(C)O | C2H6O
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 680 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | palladium acetate | 270 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | ethyl 2-fluoro-5-{2-[4-(trifluoromethyl)pyridin-3-yl]-1,3-thiazol-4-yl}benzoate | 1.17 g | FC1=C(C(=O)OCC)C=C(C=C1)C=1N=C(SC1)C=1C=NC=CC1C(F)(F)F | C18H12F4N2O2S
